US06284852B1
In contrast to the “classical” ruthenium metathesis catalysts mentioned above, which react only with highly-strained olefins, alkylidenes 6 and 7 of Example 6 also promote the ROMP of less-strained monomers such as 1,5-cyclooctadiene, and are active in the metathesis of acyclic olefins in protic solvents. For example, 6 will dimerize 1-hexene in methanol to give 5-decene in 20% yield (Equation 3). In these systems, separation of catalyst from product is facilitated through addition of water to the reaction mixture. Olefins collected from the resulting two-phase system contain very low levels of detectable ruthenium.

reactant | 1,5-cyclooctadiene | C1=CCCC=CCC1 | C8H12
reactant | 1-hexene | C=CCCCC | C6H12
solvent | methanol | CO | CH4O
catalyst | ruthenium | [Ru] | Ru
product | 5-decene | 20% yield | CCCCC=CCCCC | C10H20
